US06677337B2
Preparation of 4-{N′-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester (9).
To a stirred solution of (4-fluorophenyl)-acetic acid N-methyl-hydrazide, 8, (2 g, 11 mmol) in ethanol (20 mL) is added commercially available 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (2.19 g, 11 mmol). The reaction mixture is refluxed for 30 minutes, then cooled to room temperature after which NaCNBH3 (1.04 g, 16,5 mmol) is added. The pH of the reaction mixture is adjusted to about 3 with concentrated HCl and the reaction mixture stirred for 3 hours at room temperature. The mixture is neutralized with saturated sodium bicarbonate and extracted three times with CH2Cl2. The combined organic layers are dried, filtered and concentrated in vacuo. Purification over silica (EtOAc) affords 3.7 g (93% yield) of the desired product. ESI/MS: 366.3 (M+H).

reactant | (4-fluorophenyl)-acetic acid N-methyl-hydrazide | CN(N)C(CC1=CC=C(C=C1)F)=O | C9H11FN2O
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 11 mmol, 2.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | NaCNBH3 | 16,5 mmol, 1.04 g | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-{N′-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester | 3.7 g, 93% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NN(C)C(CC1=CC=C(C=C1)F)=O | C19H28FN3O3
